US05294734
10 g (69.4 mmol) of 5-acetoxypentanal, 6.37 g (78.2 mmol) of dimethylammonium chloride and 6.1 ml (81.2 mmol) of 37% formaldehyde solution are refluxed for 11/2 hours (bath temperature~110° C.) with stirring. The mixture is allowed to cool and is extracted three times with ether; the organic phases are combined, dried over MgSO4, filtered and concentrated by evaporation. 5-acetoxy-2-methylenepentanal is obtained in the form of a yellowish oil which can be reacted without further purification.

reactant | 5-acetoxypentanal | 69.4 mmol, 10 g | C(C)(=O)OCCCCC=O | C7H12O3
reactant | dimethylammonium chloride | 78.2 mmol, 6.37 g | [Cl-].C[NH2+]C
reactant | formaldehyde | 81.2 mmol, 6.1 ml | C=O | CH2O
product | 5-acetoxy-2-methylenepentanal | C(C)(=O)OCCCC(C=O)=C | C8H12O3
